US08754229B2
To a solution of methyl 4-amino-5-fluoro-3-methoxy-6-vinylpicolinate (140.0 mg, 0.619 mmol) in THF (1.2 mL), MeOH (1.200 mL), Water (0.600 mL), lithium hydroxide hydrate (78 mg, 1.857 mmol) was charged as a solid. The reaction was allowed to stir at room temperature for 18 hrs. The reaction was concentrated to dryness. The resulting residue was diluted with 2 N HCl and MeOH. The product was purified (C18 10-80% ACN in H2O 12 CV) to yield 4-amino-5-fluoro-3-methoxy-6-vinylpicolinic acid (79 mg, 0.372 mmol, 60.2% yield). ESIMS for m/z 213 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 3.73 (s, 3H), 5.50 (dd, J=11.0, 2.2 Hz, 1H), 6.20 (dd, J=17.3, 2.2 Hz, 1H), 6.35 (s, 2H), 6.83 (ddd, J=17.3, 10.9, 1.7 Hz, 1H), 12.98 (s, 1H). 19F NMR (376 MHz, DMSO-d6) δ −145.09.

reactant | methyl 4-amino-5-fluoro-3-methoxy-6-vinylpicolinate | 0.619 mmol, 140.0 mg | NC1=C(C(=NC(=C1F)C=C)C(=O)OC)OC | C10H11FN2O3
reactant | lithium hydroxide hydrate | 1.857 mmol, 78 mg | O.[OH-].[Li+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.200 mL | CO | CH4O
solvent | Water | 0.600 mL | O | H2O
product | 4-amino-5-fluoro-3-methoxy-6-vinylpicolinic acid | 0.372 mmol, 79 mg, 60.2% yield | NC1=C(C(=NC(=C1F)C=C)C(=O)O)OC | C9H9FN2O3
